* 12ax7 cc 12AX7 suusi-tubes.lib
.include "models/tube/12AX7/suusi-tubes.lib"
Vb bplus 0 250
Vin in 0 SIN(0 {amp} 1k)
Rgs in g 1k
Rg g 0 1Meg
X1 p g k 12AX7
Rp bplus p 100k
Rk k 0 1.5k
Ck k 0 25u
Cc p o 22n
Rl o 0 1Meg
.param amp=0.01
.tran 0 60m 40m 5u
